US06852713B2
Step F: 2-[3-(Pyrrolidine-1-sulfonyl)-phenyl]-pent-4-enoic acid allyl-(1-(S)-phenyl-2-pyrrolidin-1-yl-ethyl)-amide
To a stirred solution of allyl-(1-(S)-phenyl-2-pyrrolidin-1-yl-ethyl)-amine (1.00 g, 4.34 mmol) in dichloromethane (22 cm3) at ambient temperature was added 2-[3-(pyrrolidine-1-sulfonyl)-phenyl]-pent-4-enoic acid (1.34 g, 4.34 mmol) followed by 2-Chloro-1-methylpyridinium iodide (2.22 g, 8.68 mmol) and triethylamine (1.82 cm3, 13.0 mmol) to afford a yellow slurry. The mixture was stirred at ambient temperature for 44 hours to afford a brown solution. The solution was diluted with ethyl acetate (50 cm3) and poured into water (100 cm3). The aqueous was extracted with ethyl acetate (3×30 cm3) and the combined ethyl acetate extracts were washed with 1M sodium bicarbonate (2×50 cm3), brine (1×50 cm3), dried over sodium sulfate, vacuum filtered and the volatile fractions removed in vacuo to a crude brown oil. The crude product was purified by column chromatography (silica, eluting with dichloromethane-methanol 99:1 to 95:5 to afford the title compound as a tan viscous oil (2.10, 92.9%) with a positive ion ESI (M+H)+522.3.

reactant | allyl-(1-(S)-phenyl-2-pyrrolidin-1-yl-ethyl)-amine | 4.34 mmol, 1.00 g | C(C=C)N[C@H](CN1CCCC1)C1=CC=CC=C1 | C15H22N2
reactant | 2-[3-(pyrrolidine-1-sulfonyl)-phenyl]-pent-4-enoic acid | 4.34 mmol, 1.34 g | N1(CCCC1)S(=O)(=O)C=1C=C(C=CC1)C(C(=O)O)CC=C | C15H19NO4S
reactant | 2-Chloro-1-methylpyridinium iodide | 8.68 mmol, 2.22 g | [I-].ClC1=[N+](C=CC=C1)C
reactant | triethylamine | 13.0 mmol, 1.82 cm3 | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 22 cm3 | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 cm3 | C(C)(=O)OCC | C4H8O2
solvent | water | 100 cm3 | O | H2O
product | 2-[3-(Pyrrolidine-1-sulfonyl)-phenyl]-pent-4-enoic acid allyl-(1-(S)-phenyl-2-pyrrolidin-1-yl-ethyl)-amide | 92.9% | C(C=C)N(C(C(CC=C)C1=CC(=CC=C1)S(=O)(=O)N1CCCC1)=O)[C@H](CN1CCCC1)C1=CC=CC=C1 | C30H39N3O3S
